US07153854B2
A mixture of ethyl 2-(4-fluorobenzoyl)-3-oxo-4-phenylbutanoate (1.4 g), 1H-pyrrol-1-amine (350 mg), and p-toluenesulfonic acid monohydrate (41 mg) in ethanol (10 ml) was refluxed for 5 hours. The mixture was partioned between ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate, and evaporated. The residue was chromatographed on silica gel eluting with a mixture of ethyl acetate and hexane (1:4) to give ethyl 2-benzyl-4-(4-fluorophenyl)pyrrolo[1,2-b]pyridazine-3-carboxylate (828 mg) as an oil.

reactant | ethyl 2-(4-fluorobenzoyl)-3-oxo-4-phenylbutanoate | 1.4 g | FC1=CC=C(C(=O)C(C(=O)OCC)C(CC2=CC=CC=C2)=O)C=C1 | C19H17FO4
reactant | 1H-pyrrol-1-amine | 350 mg | N1(C=CC=C1)N | C4H6N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | p-toluenesulfonic acid monohydrate | 41 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | ethyl 2-benzyl-4-(4-fluorophenyl)pyrrolo[1,2-b]pyridazine-3-carboxylate | 828 mg | C(C1=CC=CC=C1)C=1C(=C(C=2N(N1)C=CC2)C2=CC=C(C=C2)F)C(=O)OCC | C23H19FN2O2
